US05585497
4-Cyano-1-hydrazinonaphthalene
A solution of 4.09 g of sodium nitrite in 30 ml of water is added to a solution, cooled to 0° C., of 8.35 g of 4-cyano-1-naphthylamine in 180 ml of 1N HCl. The mixture is left stirring for 1 hour 15 minutes at 0° C. It is cooled to -10° C., and a solution of 41.75 g of stannous chloride dihydrate in 42 ml of concentrated HCl is added slowly. The reaction mixture is stirred for 1 hour, allowing the temperature to rise to RT. It is filtered. The residue is suspended in water and 20 ml of concentrated NaOH are added. The expected product is obtained after filtration, rinses with water and then drying under vacuum, m=8.6 g.

reactant | sodium nitrite | 4.09 g | N(=O)[O-].[Na+]
reactant | 4-cyano-1-naphthylamine | 8.35 g | C(#N)C1=CC=C(C2=CC=CC=C12)N | C11H8N2
solvent | water | 30 ml | O | H2O
solvent | HCl | 1N, 180 ml | Cl | ClH
solvent | HCl | 42 ml | Cl | ClH
product | 4-Cyano-1-hydrazinonaphthalene | C(#N)C1=CC=C(C2=CC=CC=C12)NN | C11H9N3
